US06313118B1
tert-Butyl (R)-4-(4-Methyl-7-amino-5,6,7,8-tetrahydro-1-naphthyl)piperazin-1-carboxylate
A solution of (R)-2-arnino-5-methyl-8-(piperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (8.3 g, 34 mmol) and triethylamine (4.0 g, 40 mmol) in methylene chloride (2 L) was cooled to 2° C. and di-tert-butyl dicarbonate (7.4 g, 34 mmol) in methylene chloride (250 mL) was added dropwise under 30 min. The mixture was stirred at room temperature for 1 h followed by the addition of an aqueous solution of sodium hydrogen carbonate (500 mL). The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo. The crude product was purified on a silica gel column using methylene chloride/methanol/NH3 (aq) (10:0.6:0.06) as the eluent to give 3.7 g (32% yield) of the title compound as an oil which solidified after trituration in diethyl ether. EIMS 70 eV) m/z (relative intensity) 345 (37, M+).

reactant | (R)-2-arnino-5-methyl-8-(piperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 34 mmol, 8.3 g | N[C@H]1CC2=C(C=CC(=C2CC1)C)N1CCNCC1 | C15H23N3
reactant | triethylamine | 40 mmol, 4.0 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 34 mmol, 7.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | 500 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 2 L | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (R)-4-(4-Methyl-7-amino-5,6,7,8-tetrahydro-1-naphthyl)piperazin-1-carboxylate | 3.7 g, 32% yield | CC1=CC=C(C=2C[C@@H](CCC12)N)N1CCN(CC1)C(=O)OC(C)(C)C | C20H31N3O2
